US04024253
3,5-Dichloro-2',4-dihydroxybenzanilide (1 g.) was dissolved in dry pyridine (15 ml.) in the cold at 0°-5° C. and to it was added dropwise benzoyl chloride (1.2 ml.). With gentle stirring reaction was continued for several hours. The solution was then poured into ice-cold water and acidified with 1 N hydrochloric acid to pH 2, yielding oily material which was extracted by ethyl acetate. The ethyl acetate solution was washed with 1 N hydrochloric acid and 5% sodium bicarbonate solution in that order and dried with anhydrous sodium sulfate, followed by removal of the solvent by evaporation. The residue was subjected to recrystallization from ether and petroleum ether mixture to give white crystals (1.5 g.) of 2',4-dibenzoyloxy-3,5-dichlorobenzanilide. Yield: 88.2%. Melting point: 157°-160° C.

reactant | 3,5-Dichloro-2',4-dihydroxybenzanilide | 1 g | ClC=1C=C(C(=O)NC2=C(C=CC=C2)O)C=C(C1O)Cl | C13H9Cl2NO3
reactant | benzoyl chloride | 1.2 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2',4-dibenzoyloxy-3,5-dichlorobenzanilide | 1.5 g, Yield: 88.2% | C(C1=CC=CC=C1)(=O)OC1=C(NC(C2=CC(=C(C(=C2)Cl)OC(C2=CC=CC=C2)=O)Cl)=O)C=CC=C1 | C27H17Cl2NO5
